US07265246B2
6-Phenylpyridazin-3-ol (5.0 g, 29.06 mmol) is dissolved in toluene (100 mL) and heated to 90° C. Phosphorous oxybromide (25 g, 87.19 mmol) is added in several portions and the reaction is heated for 30 minutes. The resulting yellow solution is cooled to room temperature, poured onto ice water, and extracted with ethyl acetate. The organic layers are further washed with water and 1M sodium hydroxide, dried over magnesium sulfate, filtered, and evaporated to a yellow solid. Recrystallization from CHCl3 gives 2.17 g of 3-bromo-6-phenylpyridazine.

reactant | 6-Phenylpyridazin-3-ol | 29.06 mmol, 5.0 g | C1(=CC=CC=C1)C1=CC=C(N=N1)O | C10H8N2O
reactant | Phosphorous oxybromide | 87.19 mmol, 25 g | P(=O)(Br)(Br)Br | Br3OP
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3-bromo-6-phenylpyridazine | 2.17 g | BrC=1N=NC(=CC1)C1=CC=CC=C1 | C10H7BrN2
